** Name: SimpleOpAmp119

.MACRO SimpleOpAmp119 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=51e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=174e-6
mDiodeTransistorPmos5 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=74e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=195e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=186e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=143e-6
mNormalTransistorNmos9 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=574e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=552e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=186e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=93e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=93e-6
mNormalTransistorPmos14 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=195e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=231e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=74e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp119

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 3.49901 mW
** Area: 7785 (mu_m)^2
** Transit frequency: 37.1501 MHz
** Transit frequency with error factor: 37.1504 MHz
** Slew rate: 54.026 V/mu_s
** Phase margin: 80.2142°
** CMRR: 147 dB
** VoutMax: 3.84001 V
** VoutMin: 0.600001 V
** VcmMax: 3.53001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 143.114 muA
** NormalTransistorPmos: -192.365 muA
** NormalTransistorNmos: 177.132 muA
** NormalTransistorNmos: 177.132 muA
** DiodeTransistorPmos: -177.131 muA
** DiodeTransistorPmos: -177.132 muA
** NormalTransistorPmos: -177.131 muA
** NormalTransistorPmos: -177.132 muA
** NormalTransistorNmos: 546.629 muA
** NormalTransistorNmos: 546.628 muA
** NormalTransistorNmos: 177.132 muA
** NormalTransistorNmos: 177.132 muA
** DiodeTransistorNmos: 192.366 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -143.113 muA


** Expected Voltages: 
** ibias: 1.16101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.79001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.606001  V
** innerTransistorStack1Load2: 4.06901  V
** innerTransistorStack2Load2: 4.06801  V
** out1: 3.27901  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END