** Name: SimpleOpAmp46

.MACRO SimpleOpAmp46 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=25e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=26e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=15e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=594e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=229e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=117e-6
mNormalTransistorNmos7 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=117e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=243e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=243e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=74e-6
mNormalTransistorPmos11 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=229e-6
mNormalTransistorPmos12 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=594e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=386e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=386e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=467e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp46

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 5.07701 mW
** Area: 5413 (mu_m)^2
** Transit frequency: 33.0391 MHz
** Transit frequency with error factor: 33.0388 MHz
** Slew rate: 31.3283 V/mu_s
** Phase margin: 87.6626°
** CMRR: 141 dB
** VoutMax: 3.99001 V
** VoutMin: 0.730001 V
** VcmMax: 3.90001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -49.6859 muA
** NormalTransistorNmos: 314.195 muA
** NormalTransistorNmos: 472.822 muA
** NormalTransistorNmos: 314.195 muA
** NormalTransistorNmos: 472.822 muA
** DiodeTransistorPmos: -314.194 muA
** DiodeTransistorPmos: -314.195 muA
** NormalTransistorPmos: -314.194 muA
** NormalTransistorPmos: -314.195 muA
** NormalTransistorPmos: -317.254 muA
** NormalTransistorPmos: -158.627 muA
** NormalTransistorPmos: -158.627 muA
** DiodeTransistorNmos: 49.6851 muA
** DiodeTransistorNmos: 49.6861 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.04801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.11401  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 4.26401  V
** innerTransistorStack2Load2: 4.26201  V
** out1: 3.42201  V
** sourceGCC1: 0.530001  V
** sourceGCC2: 0.530001  V
** sourceTransconductance: 3.21501  V


.END