** Name: SimpleOpAmp71

.MACRO SimpleOpAmp71 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=13e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=28e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mNormalTransistorNmos6 out FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=28e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=65e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=532e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=164e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=164e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=549e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=594e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=594e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=198e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=198e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp71

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 4.45201 mW
** Area: 5848 (mu_m)^2
** Transit frequency: 34.4951 MHz
** Transit frequency with error factor: 34.4946 MHz
** Slew rate: 29.2149 V/mu_s
** Phase margin: 78.4953°
** CMRR: 103 dB
** VoutMax: 3.94001 V
** VoutMin: 0.320001 V
** VcmMax: 5.06001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 42.9691 muA
** NormalTransistorPmos: -244.471 muA
** NormalTransistorPmos: -418.745 muA
** NormalTransistorPmos: -244.471 muA
** NormalTransistorPmos: -418.745 muA
** DiodeTransistorNmos: 244.472 muA
** NormalTransistorNmos: 244.472 muA
** NormalTransistorNmos: 348.548 muA
** NormalTransistorNmos: 348.547 muA
** NormalTransistorNmos: 174.274 muA
** NormalTransistorNmos: 174.274 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -42.9699 muA
** DiodeTransistorPmos: -42.9689 muA


** Expected Voltages: 
** ibias: 1.12801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 4.09101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.573001  V
** out1: 0.725001  V
** sourceGCC1: 3.75101  V
** sourceGCC2: 3.75101  V
** sourceTransconductance: 1.93601  V


.END